US04044141
Analogously to Example 1 heating a solution of 75 mmols of 3'-nitrobenzylideneacetoaceic acid isopropyl ester and 75 mmols of β-aminocrotonic acid 3-chlorobenzyl ester in 120 ml of isopropanol gave 2,6-dimethyl-3-isopropoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 3-chlorobenzyl ester of melting point 104° C (from ethanol).

reactant | 2,6-dimethyl-3-isopropoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 3-chlorobenzyl ester | ClC=1C=C(COC(=O)C=2C(C(=C(NC2C)C)C(=O)OC(C)C)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C25H25ClN2O6
reactant | ethanol | C(C)O | C2H6O
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | β-aminocrotonic acid 3-chlorobenzyl ester | 75 mmols, Yield: 69% | ClC=1C=C(COC(\C=C(\C)/N)=O)C=CC1 | C11H12ClNO2
